US04030925
13. 1-[4-(2-Acetylhydrazino)phenyl]-3-ethylthiourea (NA-13)
1-Acetyl-2-(4-aminophenyl)hydrazine (1.65 g, 0.01 mole) and ethyl isothiocyanate (0.87 g, 0.01 mole) were reacted according to procedure (11.). Yield 1.7 g (67%), p.m. 191°-193° C.

reactant | 1-Acetyl-2-(4-aminophenyl)hydrazine | 0.01 mole, 1.65 g | C(C)(=O)NNC1=CC=C(C=C1)N | C8H11N3O
reactant | ethyl isothiocyanate | 0.01 mole, 0.87 g | C(C)N=C=S | C3H5NS
product | 1-[4-(2-Acetylhydrazino)phenyl]-3-ethylthiourea | C(C)(=O)NNC1=CC=C(C=C1)NC(=S)NCC | C11H16N4OS
